US06930185B2
To a solution of 6-(hydroxymethyl)-2-naphthol (500 mg, 2.87 mmol) in dimethylacetamide (4 ml) was added sodium hydroxide (344 mg, 8.61 mmol), and the mixture was stirred for 1 hour. 2-bromo-2-methylpropanamide (1.43 g, 8.61 mmol) and potassium iodide (476 mg, 2.87 mmol) were added thereto, and the mixture was stirred at room temperature for 16 hours. To the reaction solution was added water, and the mixture was extracted with ethyl acetate. The extract was washed with a 1N aqueous sodium hydroxide solution and an aqueous saturated sodium chloride solution, and dried over anhydrous sodium sulfate. After the solvent was concentrated under reduced pressure, 2-[[6-(hydroxymethyl)-2-naphthyl]oxy]-2-methylpropanamide (506 mg) was obtained as a colorless powder from isopropyl ether.

reactant | 6-(hydroxymethyl)-2-naphthol | 2.87 mmol, 500 mg | OCC=1C=C2C=CC(=CC2=CC1)O | C11H10O2
reactant | sodium hydroxide | 8.61 mmol, 344 mg | [OH-].[Na+]
reactant | 2-bromo-2-methylpropanamide | 8.61 mmol, 1.43 g | BrC(C(=O)N)(C)C | C4H8BrNO
reactant | potassium iodide | 2.87 mmol, 476 mg | [I-].[K+]
solvent | dimethylacetamide | 4 ml | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | 2-[[6-(hydroxymethyl)-2-naphthyl]oxy]-2-methylpropanamide | 506 mg | OCC=1C=C2C=CC(=CC2=CC1)OC(C(=O)N)(C)C | C15H17NO3
